US07446122B2
COMPOUND 18: 2-[8-(3,5-DIMETHYL-PHENYL)-1-ETHYL-6-ISOPROPYL-1,3,4,9-TETRAHYDRO-PYRANO[3,4-b]INDOL-1-YL]-ETHANOL
The title compound is prepared in a manner analogous to Example 1, except using 2-(8-bromo-1-ethyl-6-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol and 3,5-dimethylphenylboronic acid in step 1.F.

reactant | 2-(8-bromo-1-ethyl-6-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol | BrC=1C=C(C=C2C3=C(NC12)C(OCC3)(CC)CCO)C(C)C | C18H24BrNO2
reactant | 3,5-dimethylphenylboronic acid | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
product | 2-[8-(3,5-DIMETHYL-PHENYL)-1-ETHYL-6-ISOPROPYL-1,3,4,9-TETRAHYDRO-PYRANO[3,4-b]INDOL-1-YL]-ETHANOL | CC=1C=C(C=C(C1)C)C=1C=C(C=C2C3=C(NC12)C(OCC3)(CC)CCO)C(C)C | C26H33NO2
